US07449456B2
2-Fluoro-4-nitrotoluene and p-formaldehyde were allowed to undergo the reaction in DMSO in the presence of sodium methoxide, and then the resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain 3-fluoro-4-(2-hydroxyethyl)aniline. F: 156.

reactant | 2-Fluoro-4-nitrotoluene | FC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-fluoro-4-(2-hydroxyethyl)aniline | FC=1C=C(N)C=CC1CCO | C8H10FNO
